US06835731B2
Preparation of (4-Aminomethyl-benzyl)-(1 H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-7-yl)-amine:
To a stirred solution of 2-{[[4-(tert-Butoxycarbonylamino-methyl)-benzyl]-(5,6,7,8-tetrahydro-quinolin-7-yl)-amino]-methyl}-benzimidazole-1-carboxylic acid tert-butyl ester (120 mg, 0.20 mmol) in anhydrous CH2Cl2 (1 mL) was added TFA (1 mL). The resultant solution was stirred at room temperature overnight. The mixture was concentrated in vacuo, dissolved with MeOH, and added NaHCO3. The mixture was stirred for 20 min, diluted with CH2Cl2, filtered through celite. The crude product was purified by flash chromatography on silica gel (2:2:96 CH3OH—NH3 H2O—CH2Cl2) afforded the title compound (71 mg, 89%) as a white foam.

reactant | 2-{[[4-(tert-Butoxycarbonylamino-methyl)-benzyl]-(5,6,7,8-tetrahydro-quinolin-7-yl)-amino]-methyl}-benzimidazole-1-carboxylic acid tert-butyl ester | 0.20 mmol, 120 mg | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2)CN(C2CCC=1C=CC=NC1C2)CC2=CC=C(C=C2)CNC(=O)OC(C)(C)C | C35H43N5O4
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | (4-Aminomethyl-benzyl)-(1 H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-7-yl)-amine | 71 mg, 89% | NCC1=CC=C(CN(C2CCC=3C=CC=NC3C2)CC2=NC3=C(N2)C=CC=C3)C=C1 | C25H27N5
